US06756382B2
Using the general method of Example 197, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.7 mmol) was reacted with isobutyryl chloride (0.43 mL, 4.1 mmol) to provide 0.56 g of N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-methylpropanamide as an off white solid, m.p. 159.7-160.7° C.

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.7 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | isobutyryl chloride | 4.1 mmol, 0.43 mL | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-methylpropanamide | 0.56 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(C(C)C)=O)C | C19H25N5O
